US07390779B2
At 0° C. under an atmosphere of nitrogen, 178 ml (321 mmol) of a 1.8 M solution of ethyl aluminium dichloride in toluene was slowly added to a stirred solution of 100 g (641 mmol) of 1-(3′,3′-dimethylcyclohexyl)ethanol and 55.4 g (769 mmol) of isobutylenoxide in 500 ml of cyclohexane. After complete addition, the cooling bath was removed, the reaction mixture was allowed to warm to room temperature, and stirring was continued at this temperature for 15 h. The reaction mixture was then poured into 1 L of brine, acidified with concentrated phosphoric acid, and thrice extracted with ether. The combined organic extracts were washed with brine and water, dried with sodium sulphate, and concentrated on a rotary evaporator. Distillation of the crude material (136 g) provided at 78-85° C./0.3 mbar 55.1 g (38%) of pure 2-[1′-(3″,3″-dimethylcyclohexyl)-ethoxy]-2-methylpropan-1-ol, while 60.4 g of starting material were recovered.

reactant | ethyl aluminium dichloride | [Cl-].[Cl-].C(C)[Al+2]
reactant | 1-(3′,3′-dimethylcyclohexyl)ethanol | 641 mmol, 100 g | CC1(CC(CCC1)C(C)O)C | C10H20O
reactant | isobutylenoxide | 769 mmol, 55.4 g | CC1(C)CO1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | 500 ml | C1CCCCC1 | C6H12
product | 2-[1′-(3″,3″-dimethylcyclohexyl)-ethoxy]-2-methylpropan-1-ol | 55.1 g, 38% | CC1(CC(CCC1)C(C)OC(CO)(C)C)C | C14H28O2
